US06268387B1
3-(3-Trifluoromethyl-phenylamino)-4-methoxy-N-phenyl-benzamide
Prepared according to the procedure of Example 25 using 3-amino-4-methoxy-N-phenyl-benzamide (0.7 g, 2.9 mmol), tris(3-trifluoromethylphenyl)bismuthine (2.0 g, 3.1 mmol), copper(II) acetate (0.54 g, 3.0 mmol), and triethylamine (0.29 g, 2.9 mmol) to afford the product (0.7 g); m.p. 183-184° C. after recrystallization from acetonitrile.

reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 2.9 mmol, 0.7 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
reactant | tris(3-trifluoromethylphenyl)bismuthine | 3.1 mmol, 2.0 g | FC(C=1C=C(C=CC1)[Bi](C1=CC(=CC=C1)C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)(F)F
reactant | triethylamine | 2.9 mmol, 0.29 g | C(C)N(CC)CC | C6H15N
catalyst | copper(II) acetate | 3.0 mmol, 0.54 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 3-(3-Trifluoromethyl-phenylamino)-4-methoxy-N-phenyl-benzamide | 0.7 g | FC(C=1C=C(C=CC1)NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC)(F)F | C21H17F3N2O2
